US06509328B1
{4-(4-Fluoro-phenylethynyl)-2-[3-oxo-3-(3-[1,2,4]triazol-1-yl-phenyl)-propionylamino]-phenyl}-carbamic Acid tert.-Butyl Ester
Prepared from [2-amino-4-(4-fluoro-phenylethynyl)-phenyl]-carbamic acid tert.-butyl ester (Example G33) and 2,2-dimethyl-6-(3-[1,2,4]triazol-1-yl-phenyl)-[1,3]dioxin-4-one (Example J13) according to the general procedure K. Obtained as a yellow solid (230 mg).

reactant | [2-amino-4-(4-fluoro-phenylethynyl)-phenyl]-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C#CC1=CC=C(C=C1)F)N)=O | C19H19FN2O2
reactant | 2,2-dimethyl-6-(3-[1,2,4]triazol-1-yl-phenyl)-[1,3]dioxin-4-one | CC1(OC(=CC(O1)=O)C1=CC(=CC=C1)N1N=CN=C1)C | C14H13N3O3
product | {4-(4-Fluoro-phenylethynyl)-2-[3-oxo-3-(3-[1,2,4]triazol-1-yl-phenyl)-propionylamino]-phenyl}-carbamic Acid tert.-Butyl Ester | 230 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C#CC1=CC=C(C=C1)F)NC(CC(C1=CC(=CC=C1)N1N=CN=C1)=O)=O)=O | C30H26FN5O4
